US07812016B2
7-[5-(4-Fluorobenzyl)-4H-1,2,4-triazol-3-yl]-5-morpholin-4-yl-1,6-naphthyridin-8-ol
A solution of 5-bromo-7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol (34 mg, 0.09 mmol) in neat morpholine was heated in a sealed tube at 150° C. for 16 hours. The excess amine was removed in vacuo and the residue purified by preparative HPLC to provide the title compound (19 mg, 55%) as a white solid. 1H NMR (CDCl3): δ 9.14 (dd, J=4.4, 1.6 Hz, 1 H), 8.45 (dd, J=8.4, 1.6 Hz, 1 H), 7.57 (dd, J=8.4, 4.4 Hz, 1 H), 7.36 (dd, J=8.4, 5.2 Hz, 2 H), 7.01 (t, J=8.4 Hz, 2 H), 4.19 (s, 2 H), 3.98 (t, J=4.4 Hz, 4 H), 3.33 (t, J=4.4 Hz, 4 H); 13C NMR (CDCl3): δ 168.49, 161.79 (d, JCR=243.6 Hz), 154.85, 153.95, 153.40, 146.07, 144.75, 133.88, 132.99 (d, JCF=3.0 Hz), 130.40 (d, JCF=130.4 Hz), 122.67, 120.81, 119.70, 115.37 (d, JCF=21.2 Hz), 66.88, 52.06, 33.71; MS m/z 407 (M+1).

reactant | 5-bromo-7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol | 0.09 mmol, 34 mg | BrC1=C2C=CC=NC2=C(C(=N1)C1=NN=C(N1)CC1=CC=C(C=C1)F)O | C17H11BrFN5O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 7-[5-(4-Fluorobenzyl)-4H-1,2,4-triazol-3-yl]-5-morpholin-4-yl-1,6-naphthyridin-8-ol | 19 mg, 55% | FC1=CC=C(CC=2NC(=NN2)C2=NC(=C3C=CC=NC3=C2O)N2CCOCC2)C=C1 | C21H19FN6O2
